US04699910
Condensation of N-propargyl-N'-(3-trifluoromethyl-phenyl)-ethylenediamine, obtainable according to 3.2, with diethyloxalate gave 1-propargyl-4-(3-trifluoromethyl-phenyl)-piperazin-2,3-dione. This compound was reduced to the title compound with lithium aluminum hydride or borane and was processed according to Example 5. White crystals, melting point 218°-219° C. (decomposition).

reactant | N-propargyl-N'-(3-trifluoromethyl-phenyl)-ethylenediamine | C(C#C)NCCNC1=CC(=CC=C1)C(F)(F)F | C12H13F3N2
reactant | diethyloxalate | C(C)OC(C(=O)OCC)=O | C6H10O4
product | 1-propargyl-4-(3-trifluoromethyl-phenyl)-piperazin-2,3-dione | C(C#C)N1C(C(N(CC1)C1=CC(=CC=C1)C(F)(F)F)=O)=O | C14H11F3N2O2
